US07338957B2
4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide resin (50 mg, 0.05 mmol), prepared as in reference 2, in n-butanol (2 mL) is mixed with acetyl chloride (17.8 μL, 0.25 mmol) and 3-aminobenzamide (34 mg, 0.25 mmol), and shaken at 80° C. for 24 hours. The resulting mixture is filtered and the resin is treated with TFA/CH2Cl2/H2O (45/50/5) (600 μL) for 30 minutes before filtering and washing with CH2Cl2 (3×2 mL), MeOH (3×2 mL). The washes are then combined together and concentrated. The residue is purified by preparative HPLC-MS to give 4-(3-carbamoyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide (18.5 mg, yield, 60%); 1H NMR (400 MHz, DMSO-d6) δ 11.52 (s, 1H), 10.31 (s, 1H), 9.99 (s, 1H), 8.60 (s, 1H), 8.52 (d, J=1.71 Hz, 1H), 8.23 (s, 1H), 8.12 (d, J=7.59 Hz, 1H), 8.00 (s, 1H), 7.98 (d, J=8.02 Hz, 2H), 7.87 (d, J=3.89 Hz, 1H), 7.59 (dd, J=17.87, 9.00 Hz, 2H), 7.49 (d, J=7.98 Hz, 2H), 7.47 (s, 1H), 7.38 (s, 1H), 7.29 (d, J=8.48 Hz, 1H), 7.11 (d, J=3.89 Hz, 1H), 3.75 (s, 2H), 3.43-2.79 (m, 8H), 2.50 (s, 3H), 2.49 (s, 3H); ESIMS m/z 618.20 (M++1).

reactant | 4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide | 0.05 mmol, 50 mg | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2Cl | C27H28ClN7O2
reactant | acetyl chloride | 0.25 mmol, 17.8 μL | C(C)(=O)Cl | C2H3ClO
reactant | 3-aminobenzamide | 0.25 mmol, 34 mg | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(3-carbamoyl-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[4-(4-methyl-piperazin-1-ylmethyl)-benzoylamino]-phenyl}-amide | 18.5 mg, 60% | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2NC2=CC(=CC=C2)C(N)=O | C34H35N9O3
